US05925785
The potassium salt of fluorobenzene-2,4-disulfonic acid can be obtained in accordance with the following working procedure: 93.3 ml (1 mol) of fluorobenzene were added dropwise to 200 ml of chlorosulfonic acid over one hour. When the evolution of hydrogen chloride had ceased, the reaction mixture was stirred at room temperature for 2 hours and then poured onto 300 g of ice. It was extracted with chloroform, and the organic phase was washed with 50 ml of water and saturated sodium hydrogen carbonate solution. Distillation of the organic phase in vacuo gave 175 g (90% of theory) of p-FC6H4SO2Cl (boiling point: 86 to 88° C. at 0.1 mbar; melting point: 35 to 38° C.).

reactant | fluorobenzene | 1 mol, 93.3 ml | FC1=CC=CC=C1 | C6H5F
reactant | hydrogen chloride | Cl | ClH
reactant | chlorosulfonic acid | 200 ml | ClS(=O)(=O)O | ClHO3S
product | p-FC6H4SO2Cl | 175 g, 90% | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
